US09290440B2
4-(3-Methyl-1-butyn-1-yl)benzyl alcohol
4-Iodobenzyl alcohol (1.00 g) was dissolved in DMF (17 mL), added with copper (1) iodide (97.7 mg), triethylamine (0.89 mL), and 3-methyl-1-butyne (1.27 mL), and stirred for 10 minutes in argon atmosphere. Subsequently, it was added with bis(triphenylphosphine)palladium (II) chloride (300 mg) and stirred for 4.3 hours at room temperature in argon atmosphere. After filtration through Celite, it was washed with ethyl acetate and the solvent was evaporated under reduced pressure. The residues were purified by silica gel column chromatography (6 to 40% ethyl acetate/hexane) to obtain the title compound as a yellow oil.

reactant | 4-Iodobenzyl alcohol | 1.00 g | IC1=CC=C(CO)C=C1 | C7H7IO
reactant | triethylamine | 0.89 mL | C(C)N(CC)CC | C6H15N
reactant | 3-methyl-1-butyne | 1.27 mL | CC(C#C)C | C5H8
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
catalyst | copper (1) iodide | 97.7 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium (II) chloride | 300 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-(3-Methyl-1-butyn-1-yl)benzyl alcohol | CC(C#CC1=CC=C(CO)C=C1)C | C12H14O
